US08114891B2
N-(quinuclidin-4-ylmethyl)benzo[d]isothiazole-3-carboxamide was prepared in a similar manner to N-((quinuclidin-4-yl)methyl)-1H-indole-3-carboxamide, substituting benzo[d]isothiazole-3-carbonyl chloride as the electrophile.

reactant | N-((quinuclidin-4-yl)methyl)-1H-indole-3-carboxamide | N12CCC(CC1)(CC2)CNC(=O)C2=CNC1=CC=CC=C21 | C17H21N3O
reactant | benzo[d]isothiazole-3-carbonyl chloride | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
product | N-(quinuclidin-4-ylmethyl)benzo[d]isothiazole-3-carboxamide | N12CCC(CC1)(CC2)CNC(=O)C2=NSC1=C2C=CC=C1 | C16H19N3OS
